US04013658
Propyl iodide was reacted with 3,5-diphenyl-4(1H)-pyridazinone according to the process of Example 4 to produce 3,5-diphenyl-1-propyl-4(1H)-pyridazinone, m.p. 94°-96° C. in 95% yield.

reactant | Propyl iodide | C(CC)I | C3H7I
reactant | 3,5-diphenyl-4(1H)-pyridazinone | C1(=CC=CC=C1)C1=NNC=C(C1=O)C1=CC=CC=C1 | C16H12N2O
product | 3,5-diphenyl-1-propyl-4(1H)-pyridazinone | 95% yield | C1(=CC=CC=C1)C1=NN(C=C(C1=O)C1=CC=CC=C1)CCC | C19H18N2O
